US08138178B2
4-iodo-1-isopropylpyridin-2(1H)-one was prepared from 4-iodopyridin-2(1H)-one and isopropyl iodide following a procedure analogous to that described in Example 59 Step 1.

reactant | 4-iodopyridin-2(1H)-one | IC1=CC(NC=C1)=O | C5H4INO
reactant | isopropyl iodide | C(C)(C)I | C3H7I
product | 4-iodo-1-isopropylpyridin-2(1H)-one | IC1=CC(N(C=C1)C(C)C)=O | C8H10INO
